US04139540
To a stirred solution of 78.7 parts of 2-bromo-1-(2-chloro-4-fluorophenyl)ethanone in 140 parts of 1,1'-oxybisethane are added carefully 106.4 parts of 1H-imidazole. Upon completion, there are added 180 parts of N,N-dimethylformamide and the whole is stirred for 2 hours at 50° C. After the addition of water, the product is extracted twice with trichloromethane. The combined extracts are washed three times with water, dried, filtered and evaporated. The residue is converted into the hydrochloride salt in 4-methyl-2-pentanone, 2,2'-oxybispropane and 2-propanol. The salt is filtered off and crystallized from a mixture of ethanol and 2,2'-oxybispropane, yielding 1.5 parts of 1-(2-chloro-4-fluorophenyl)-2-(1H-imidazol-1-yl)ethanone hydrochloride; mp. 197.4° C.

reactant | 2-bromo-1-(2-chloro-4-fluorophenyl)ethanone | BrCC(=O)C1=C(C=C(C=C1)F)Cl | C8H5BrClFO
reactant | 1,1'-oxybisethane | O(CC)CC | C4H10O
reactant | 1H-imidazole | N1C=NC=C1 | C3H4N2
reactant | N,N-dimethylformamide | CN(C=O)C | C3H7NO
solvent | water | O | H2O
product | 1-(2-chloro-4-fluorophenyl)-2-(1H-imidazol-1-yl)ethanone hydrochloride | Cl.ClC1=C(C=CC(=C1)F)C(CN1C=NC=C1)=O | InChI=1S/C11H8ClFN2O.ClH/c12-10-5-8(13)1-2-9(10)11(16)6-15-4-3-14-7-15;/h1-5,7H,6H2;1H
